US07498440B2
Preparation of 1-{3-[(4-bromophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0486 g, 0.165 mmol) and 4-bromophenyl 3-bromopropyl ether (0.0630 g, 0.214 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0731 g, 75.4%). EI-MS m/z 506(M+) Rt (2.18 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.165 mmol, 0.0486 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-bromophenyl 3-bromopropyl ether | 0.214 mmol, 0.0630 g | BrCCCOC1=CC=C(C=C1)Br | C9H10Br2O
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(4-bromophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0731 g, 75.4% | [Br-].BrC1=CC=C(C=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33BrNO2.BrH/c30-26-12-14-27(15-13-26)33-23-7-19-31-20-16-28(17-21-31,18-22-31)29(32,24-8-3-1-4-9-24)25-10-5-2-6-11-25;/h1-6,8-15,32H,7,16-23H2;1H/q+1;/p-1
